data/rdb19/train.csv
rxn,smiles,ea
669,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31],47.84608278126689
1867,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:15]([H:21])([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],60.454033171990886
3064,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:18]([C:17]([C:16]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:19])[H:20])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],49.02350196795305
2998,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31],34.525549993268214
1422,[C:10]([O:11][C:12](=[O:13])[C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:17]([C:14]([C:12]([O:11][C:10]([H:20])([H:21])[H:22])=[O:13])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],24.58278545853682
3980,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])([H:37])[H:38])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:15])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[H:16][C:26]([C:25]([C:24]([H:34])([H:35])[H:36])([H:37])[H:38])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43],30.5305304414942
2428,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:13](=[O:14])[C:15]([H:25])([H:26])[H:27].[C:1]([C:2]([H:3])([H:4])[O:12][C:10]([C:9]([C:8]([H:16])([H:17])[H:18])([H:19])[H:20])([C:11]([H:22])([H:23])[H:24])[H:21])([H:5])([H:6])[H:7],62.203870312834624
3209,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[O:25][C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22](=[C:23]([H:24])[O:25][C:26]([H:32])([H:33])[H:34])[H:30])([H:27])([H:28])[H:29].[C:5]([H:15])([H:16])([H:17])[H:31],79.64171510818414
2881,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[C:23]([C:21]([C:19]([O:18][C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])=[O:20])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],11.28609252878232
5220,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([H:5])[H:32])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])[H:31])([H:28])([H:29])[H:30],21.11186923715286
1313,[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[O:10][H:11])[H:6]>>[H:7][O:10][H:11].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],35.29684920486761
